US06933295B2
4-Amino-2-[3-(silylmethyl)benzyl]-1-isoindolinone
A solution of 4-nitro-2-[3-(silylmethyl)benzyl]-1-isoindolinone (5.2 g, 12.5 mmol) in tetrahydrofuran (60 ml) is, in the presence of palladium (10% on carbon, 375 mg), stirred under an atmosphere of hydrogen for 20 h and filtered, and the filtrate is concentrated under reduced pressure. The desired product is purified by flash chromatography (cyclohexane/ethyl acetate mixtures). Yield: 3.8 g, 79% of theory.

reactant | 4-nitro-2-[3-(silylmethyl)benzyl]-1-isoindolinone | 12.5 mmol, 5.2 g | [N+](=O)([O-])C1=C2CN(C(C2=CC=C1)=O)CC1=CC(=CC=C1)C[SiH3] | C16H16N2O3Si
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
catalyst | palladium | 375 mg | [Pd] | Pd
product | 4-Amino-2-[3-(silylmethyl)benzyl]-1-isoindolinone | NC1=C2CN(C(C2=CC=C1)=O)CC1=CC(=CC=C1)C[SiH3] | C16H18N2OSi
